US04948796
In 20 ml of ethanol was dissolved 1.05 g of 5-[4-{(E)-3-phenylallyl}piperazin-1-yl]-7-tert-butyldimethylsilyloxy-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridine. The solution was adjusted to pH 0.5 with 6 N hydrochloric acid and then stirred for 12 hours at room temperature. The reaction mixture was adjusted to pH 8.0 with a 10% aqueous sodium hydroxide solution. The solvent was removed by distillation under reduced pressure. To the residue were added 20 ml of water and 20 ml of ethyl acetate. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: n-hexane/acetone=2/1) to obtain 600 mg of 5-[4-{(E)-3-phenylallyl}piperazin-1-yl]-7-hydroxy-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridine. It was recrystallized from ethanol to obtain 510 mg of colorless crystals having a melting point of 136°-140° C.

reactant | 5-[4-{(E)-3-phenylallyl}piperazin-1-yl]-7-tert-butyldimethylsilyloxy-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridine | 1.05 g | C1(=CC=CC=C1)/C=C/CN1CCN(CC1)C1C2=C(CCC3=NC=CC=C31)C=CC(=C2)O[Si](C)(C)C(C)(C)C | C33H43N3OSi
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-[4-{(E)-3-phenylallyl}piperazin-1-yl]-7-hydroxy-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridine | 600 mg | C1(=CC=CC=C1)/C=C/CN1CCN(CC1)C1C2=C(CCC3=NC=CC=C31)C=CC(=C2)O | C27H29N3O
